US07709500B2
4-Amino-N-{(2R)-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]-2-hydroxypropyl}-3-methoxybenzamide
Prepared as described in Example 1 from (2R)-1-amino-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]propan-2-ol (0.1 g) and 4-amino-3-methoxybenzoic acid (0.052 g). Title compound obtained as white solid (0.053 g).

reactant | (2R)-1-amino-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]propan-2-ol | 0.1 g | NC[C@H](CN1CCC(CC1)OC1=CC(=C(C=C1)Cl)Cl)O | C14H20Cl2N2O2
reactant | 4-amino-3-methoxybenzoic acid | 0.052 g | NC1=C(C=C(C(=O)O)C=C1)OC | C8H9NO3
product | 4-Amino-N-{(2R)-3-[4-(3,4-dichlorophenoxy)piperidin-1-yl]-2-hydroxypropyl}-3-methoxybenzamide | NC1=C(C=C(C(=O)NC[C@H](CN2CCC(CC2)OC2=CC(=C(C=C2)Cl)Cl)O)C=C1)OC | C22H27Cl2N3O4
